US04371720
2-(1,3-Dioxolan-2-yl)ethyltriphenylphosphonium bromide
A solution of 25 g. (0.138 mmole) of 2-(2-bromoethyl)-1,3-dioxolane and 36.2 g. (0.138 mmole) of triphenylphosphine in 30 ml. of toluene was heated at 100° C. for 18 hours. The reaction was cooled to yield two phases. The toluene phase was decanted and the oil remaining crystallized at -78° C. in ethyl acetate. Decantation of the ethyl acetate and warming of the crystals to room temperature gave an oil. The oil was dried under vacuum (0.05 torr) at 100° C. for 16 hours to yield 15 g. (27%) of the title compound as a solid glass which was ground to a powder.

reactant | 2-(2-bromoethyl)-1,3-dioxolane | 0.138 mmole | BrCCC1OCCO1 | C5H9BrO2
reactant | triphenylphosphine | 0.138 mmole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(1,3-Dioxolan-2-yl)ethyltriphenylphosphonium bromide | 27% | [Br-].O1C(OCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H24O2P.BrH/c1-4-10-20(11-5-1)26(21-12-6-2-7-13-21,22-14-8-3-9-15-22)19-16-23-24-17-18-25-23;/h1-15,23H,16-19H2;1H/q+1;/p-1
